* Z:\media\storage\CODES_ln\LTSpice_projects\galvoscanner\ampl_vergl_mos_endstufe.asc
R1 N013 in 50
Q1 N002 N006 N008 0 BC547B
R2 N008 Isink1 22.1
R3 N009 Isink1 22.1
R4 LM334 N018 22.1
R5 LM334 N019 22.1
Q2 N021 N006 N018 0 BC560C
Q3 N023 N007 N019 0 BC560C
R8 Vplus N002 2k
R9 Vplus N005 2k
R10 N021 Vmin 2k
R11 N023 Vmin 2k
V1 in 0 SINE(0 1 {fsin} {1/(10*fsin)}) AC 1
V2 Vplus 0 {vsup}
V3 Vmin 0 {-vsup+1}
Q6 N005 N007 N009 0 BC547B
M1 out_B Gn Vmin Vmin IRFP240
M2 out_B Gp Vplus Vplus IRFP9240
I5 0 Gnref 10m
R18 Gn N021 10
R19 Gp N002 10
Rload N015 N011 2
R20 N011 N007 1k
M4 Gnref Gnref 0 0 IRFP240
M5 Gpref Gpref 0 0 IRFP9240
I7 Gpref 0 10m
Q§T1 Vplus N004 Gn1 0 npnx
Q§T2 Vmin N020 Gp1 0 pnpx
R12 Gn1 Sn1 100
R13 Sp1 Gp1 100
R14 N004 N010 1k
R15 N017 N020 1k
D1 N010 N012 Dx
D2 N012 N017 Dx
Rload1 N016 0 2
R16 Sn1 out_A 1µ
R17 out_A Sp1 1µ
I3 N020 Vmin 4.25m
I4 Vplus N004 4.27m
M3 Vplus Gn1 Sn1 Sn1 IRFP240
M6 Vmin Gp1 Sp1 Sp1 IRFP9240
XU1 N022 Vmin N024 TL431
R26 Vplus N022 4.7k
Q9 Isink1 N022 N024 0 BC550C
R28 N024 Vmin 613
XU2 Vplus N003 N001 LM334
R31 N001 N003 45.3
D3 N003 LM334 1N914
R32 N001 LM334 284
R22 N006 N013 50
C1 N011 N007 100p
R6 N013 0 10T
XU3 in N014 N012 opamp_param_3 Vp=25 Vm=-25 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R7 N016 N014 6k
R23 N014 0 2k
C2 N016 N014 220p
L1 out_B N015 100µ
XU4 N028 N029 outLM opamp_param_3 Vp=25 Vm=-25 Ilim=3 FT=5.5Meg SR=8 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R24 outLM N033 1
R25 N034 N036 2
L2 outLM N034 100µ
R27 N036 0 0.1
R29 N028 in 1k
R30 N032 N028 150
R33 N036 N029 1k
C3 N029 N032 2.2n
C4 outLM N029 100p
C5 0 N033 220n
L3 out_A N016 100µ
Rload2 N011 0 0.1
XU5 Vplus N035 N030 LM334
R21 N030 N035 17.2
R34 N035 0 2k
XU6 N026 Vmin N027 TL431
R35 Vplus N026 4.7k
Q4 N025 N026 N031 0 BC550C
R36 N031 Vmin 300
R37 0 N025 2k
V4 N027 N031 1.25
.model D D
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.param ksq=4.1m
* .temp 27 77
.model npnx npn (Bf=200 Is={10m/exp(0.7/26m)}
.model pnpx pnp (Bf=200 Is={10m/exp(0.7/26m)}
.model Dx D (Is={(20*50u)/exp(0.7/26m)}
.param fsin=50k
;tran  {4/fsin}
* tempco of 1N914 measured:\n-1.66702mV/K
* Feedback
* A0=1+R20/R21
.param R23=2k
.param R21=100
.dc v1 -1 1 0.01
* I_out=(V_R/R_set)*(n/(n-1))\nR_set=(n*V_R)/(I_out*(n-1)\nV_R=214uV/K*300k
.param vsup=25
.step param vsup  list 25 12
.lib EIT_sub\opamp_parametrierbar.sub
.lib LM334.sub
.lib tl431.sub
.backanno
.end
