* C:\users\mainster\My Documents\CODES_local\LTSpice_projects\galvoscanner\position_demo.asc
XU1 0 N001 out opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 in1 N001 453
R2 N001 out 16.9k
C1 N001 out 330p
C2 in1 0 470p
XU2 0 N005 out2 opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R3 in2 N005 453
R4 N005 out2 16.9k
C3 N005 out2 330p
C4 in2 0 470p
I1 0 N006 SINE(0 100u 10k) AC 1
R5 N002 out 2k
R6 N004 out2 2k
C5 N004 0 1.2n
R8 N004 0 4.53k
R9 N003 N002 4.53k
XU3 N004 N002 N003 opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 N003 N002 1.2n
XU4 in2 0 in1 N006 crtl_ii F=1
;ac oct 100 1k 100meg
.ac oct 100 1k 100meg
.lib EIT_sub\controlled_sources.sub
.lib EIT_sub\opamp_parametrierbar.sub
.backanno
.end
