* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\powerstage_PushPull_BJT_MJ1101xG_LT_HvOp_afterLoopEst.asc
Q§T2 Vplus b1 N002 0 2N3019
Q§T3 Vmin b2 N015 0 2N5401
R6 N002 N004 {bias}
R7 N012 N015 {bias*1.5}
R8 b1 N003 {bias_b}
R9 N014 b2 {bias_b}
D2 N003 stim 1N4148
D3 stim N014 1N4148
Rload1 N018 shunt 1.5
V3 Vplus 0 {vsup}
V4 Vmin 0 {-vsup}
V5 stim 0 PULSE(0 1 0 10p 10p) AC 1
R10 b2 N017 1m
R11 N001 b1 1m
I2 0 N001 {IK1}
I3 N017 0 {Ik1}
Rshunt shunt 0 0.01
R13 N004 out_A {Rs}
R14 N012 out_A {Rs}
R22 out_A N013 22t
C3 N013 0 1µ
XU3 stim N007 Vplus Vmin opOut1 LT1797
R3 N019 N007 1k
R4 N007 N009 {1k*Kp}
L2 NC_01 N018 170µ Rpar=1meg Cpar=100p
I_cmd1 0 I_cmd PULSE({-Ipeak} {Ipeak} 0 20n 20n 1m 2m)
RI_cmd I_cmd 0 1
XU5 N011 N005 Vplus Vmin N006 ada4700 ada4700
R16 N005 I_cmd {Rsu}
R17 N005 0 {Rsu}
R18 0 N011 {Rsu}
R19 N005 N006 {Rsu}
E1 N019 0 shunt 0 100
C2 N010 N009 {1/(1k*Ki+1u)}
Short_I 0 no_I1 short_I 0 SWA
V1 short_I 0 {10k*Ki+1u}
C1 0 0 100p
Short_I1 0 N020 short_I 0 SWA
R1 Vplus N020 1k
XU2 0 NC_06 0 2N6287
XU6 0 NC_07 0 2N6284
XU7 0 NC_08 0 MJ11016G
XU8 0 NC_09 0 MJ11015G
XU1 Vplus N002 N004 MJ11016G
XU4 Vmin N015 N012 MJ11015G
E2 pwrStage 0 stim 0 1
L1 N016 0 1m
C4 stem 0 10µ
R2 stem N016 1
.model D D
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
* .dc I_cmd1 -2 2 0.001
;ac oct 500 1 1000meg
* bis jetzt 15.09.2014 #1
.inc /home/mainster/.wine/drive_c/Program Files (x86)/LTC_orig/LTspiceIV_4.18/lib/sub/ADA4700.sub
.inc /home/mainster/.wine/drive_c/Program Files (x86)/LTC_orig/LTspiceIV_4.18/lib/sub/LM358.sub
* .model IRFP240 VDMOS(Rg=3 Vto=4 Rd=72m Rs=18m Rb=36m Kp=4.9 Lambda=.03 Cgdmax=1.34n Cgdmin=.1n Cgs=1.25n Cjo=1.25n Is=67p mfg=International_Rectifier Vds=200 Ron=180m Qg=70n)\n.model IRFP250N VDMOS(Rg=1.44 Vto=4.0 Rd=47m Rs=0m Rb=5.6m Kp=13 Cgdmax=3.9n Cgdmin=0.10n Cgs=1.9n Cjo=1.25n Is=5p tt=186n mfg=International_Rectifier Vds=200 Ron=75m Qg=123n)
; ---------------------
;   Power amp
; ---------------------
.param Ik1 = 3m
.param bias = 220
.param bias_b = 390
.param Rs = 10m
; ---------------------
;   SOURCES
; ---------------------
.param Vsup = 30V
.param Ipeak = 10A
; ---------------------
;   Compensator
; ---------------------
.param Rsu = 1k
.param Kp = 100
.param Ki = 15000
.model swA SW(Ron=.1 Roff=100Meg Vt=0.1 Vh=-.5 )
* .step param Kp 0.5 15 2
;ac oct 100 10 10meg
* laplace=(4.318e15*s+1.88e6*s**2-3.895e15)/(3.208e18*s+1.506e10*s**2+s**3+3.013e19)
* .ac oct 200 1 1000meg
* laplace=(5.152e18*s**2-7.712e20*s+5.752e14*s**3+1.933e7*s**4+2.045e19)/(3.486e18*s**2-5.113e20*s+5.214e13*s**3+1.212e7*s**4+s**5+9.891e19)
.tran 3e-8
* Gpw.num,
.lib 2N6284.sub
.lib 2N6287.sub
.lib LTC.lib
.lib MJ11015G.sub
.lib mj11016g.sub
.backanno
.end
